US07781452B2
6-Methoxy-5-methyl-3-nitro-2-pyridineamine
A mixture of 5-iodo-6-methoxy-3-nitro-2-pyridineamine (1.03 g, 3.49 mmol), trimethylboroxin (456 mg, 3.63 mmol), cesium carbonate (3.56 g, 10.9 mmol), tetrakis(triphenylphosphine)palladium(0) (412 mg, 0.357 mmol) and N,N-dimethylformamide (10 ml) was stirred at 90° C. under nitrogen atmosphere. After 2 hours and 30 minutes, trimethylboroxin (500 μl, 3.58 mmol) was added, and the reaction mixture was further stirred under the same conditions for 5 hours and 30 minutes. The reaction mixture was cooled to room temperature and then diluted with ethyl acetate and water. Insoluble substance was filtered off, the organic layer of the filtrate was washed 3 times with a saturation ammonium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography (silica gel: 40 g, eluting solvent: heptane, heptane/ethyl acetate=90/10) to yield the title compound (350 mg, 1.91 mmol, 54.8%) as a yellow solid.

reactant | 5-iodo-6-methoxy-3-nitro-2-pyridineamine | 3.49 mmol, 1.03 g | IC=1C=C(C(=NC1OC)N)[N+](=O)[O-] | C6H6IN3O3
reactant | trimethylboroxin | 3.63 mmol, 456 mg | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | cesium carbonate | 10.9 mmol, 3.56 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | trimethylboroxin | 3.58 mmol, 500 μl | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.357 mmol, 412 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Methoxy-5-methyl-3-nitro-2-pyridineamine | 1.91 mmol, 350 mg, 54.8% | COC1=C(C=C(C(=N1)N)[N+](=O)[O-])C | C7H9N3O3
